US04628059
3-Fluorobenzyl isothiocyanate (4.3 g, 25.5 mmole) and formyl hydrazine (1.7 g, 28.7 mole) were refluxed in ethanol (30 ml) for one hour. The reaction mixture was evaporated to dryness, triturated with hexane:ethyl acetate (1:1), filtered, and recrystallized from ethanol-hexane to yield 1.3 g (22%) of crude 4-(3'-fluorobenzyl)-1-formyl-3-thiosemicarbazide.

reactant | 3-Fluorobenzyl isothiocyanate | 25.5 mmole, 4.3 g | FC=1C=C(CN=C=S)C=CC1 | C8H6FNS
reactant | formyl hydrazine | 28.7 mole, 1.7 g | C(=O)NN | CH4N2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(3'-fluorobenzyl)-1-formyl-3-thiosemicarbazide | 1.3 g, 22% | FC=1C=C(CNC(NNC=O)=S)C=CC1 | C9H10FN3OS
